US07081454B2
1-[4-(4-Amino-3-methyl-5-nitro-phenyl)-piperazin-1-yl]-ethanone:
A mixture of 4-bromo-2-methyl-6-nitro-phenylamine (5 g, 21.64 mmol), 1-acetylpiperazine (4.2 g, 32.46 mmol), palladium acetate (244 mg, 1.08 mmol), tri-tert-butylphosphine (440 mg, 2.16 mmol) and sodium tert-butoxide (4.2 g, 43.29 mmol) in toluene (70 mL) was heated to 100° C. for 14 h under nitrogen. The reaction mixture was cooled to room temperature and diluted with EtOAc. After extraction, the combined organic layers were washed with water, brine, dried over Na2SO4. Concentration gave a brownish residue which was purified by flash column chromatography (10% MeOH/CH2Cl2) to yield the title compound (4.21 g, 70%). 1H NMR (400 MHz, CD3OD) δ 7.42 (1H, d, J=2.8 Hz), 7.23 (1H, d, J=2.8 Hz), 3.71 (2H, t, J=5.1 Hz), 3.67 (2H, t, J=5.1 Hz), 3.04 (2H, t, J=5.2 Hz), 2.98 (2H, t, J=5.2 Hz), 2.24 (3H, s), 2.13 (3H, s). LCMS (M+H)+ m/z 279 (t=1.46 min.).

reactant | 4-bromo-2-methyl-6-nitro-phenylamine | 21.64 mmol, 5 g | BrC1=CC(=C(C(=C1)[N+](=O)[O-])N)C | C7H7BrN2O2
reactant | 1-acetylpiperazine | 32.46 mmol, 4.2 g | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | tri-tert-butylphosphine | 2.16 mmol, 440 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | sodium tert-butoxide | 43.29 mmol, 4.2 g | CC(C)([O-])C.[Na+]
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium acetate | 1.08 mmol, 244 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-[4-(4-Amino-3-methyl-5-nitro-phenyl)-piperazin-1-yl]-ethanone | 4.21 g, 70% | NC1=C(C=C(C=C1[N+](=O)[O-])N1CCN(CC1)C(C)=O)C | C13H18N4O3
